US04332829
Preparation of Methylthiomethyl Isobutyrate
This product was prepared according to the procedure described in Example 1, by reacting isobutyric acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 64° C./12 mm Hg, nD20 1.4470.

reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl Isobutyrate | C(C(C)C)(=O)OCSC | C6H12O2S
